US08222416B2
To a mixture of toluene-4-sulfonic acid 1-[1-benzenesulfonyl-5-(3-methoxy-prop-1-ynyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-vinyl ester (900 mg, 1.53 mmol), 4-(methanesulfonyl)phenylboronic acid (763 mg, 3.81 mmol) and dichlorobis(triphenylphosphine)palladium (II) (107 mg, 0.15 mmol) in dioxane (5 mL) was added an aqueous sodium carbonate solution (2 M, 1.9 mL). The mixture was subjected to microwave irradiation for 1 h at 100° C. The resulting mixture was diluted with ethyl acetate (150 mL), washed with a saturated aqueous sodium bicarbonate solution (2×50 mL), brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company, 33% ethyl acetate/hexanes) afforded 1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-(3-methoxy-prop-1-ynyl)-1H-pyrrolo[2,3-b]pyridine (400 mg, 45.6%) as an orange oil: LC/MS m/e calcd for C31H30N2O5S2 [M+H]+ 575.72, observed 575.1.

reactant | toluene-4-sulfonic acid 1-[1-benzenesulfonyl-5-(3-methoxy-prop-1-ynyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-vinyl ester | 1.53 mmol, 900 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)C#CCOC)C(=CC2CCCC2)OS(=O)(=O)C2=CC=C(C=C2)C | C31H30N2O6S2
reactant | 4-(methanesulfonyl)phenylboronic acid | 3.81 mmol, 763 mg | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | sodium carbonate | 2 M, 1.9 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium | 0.15 mmol, 107 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-(3-methoxy-prop-1-ynyl)-1H-pyrrolo[2,3-b]pyridine | 400 mg, 45.6% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)C#CCOC)C(=CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)C | C31H30N2O5S2
